US06277878B1
Step 1. Ethyl 3-amino-5-chloro-2-(3-chlorobenzoyl)-1H-indole-1-carboxylate
The title compound was prepared according to the procedure described in step 2 of Example 1 from 5-chloro-2-[(ethoxycarbonyl)amino]benzonitrile (K. O. Geolotte et al, J. Heterocyclic Chem., 1990, 27, 1549) and 2-bromo-3′-chloroacetophenone (M. Kihara et al., Tetrahedron, 1992, 48, 67-78).

reactant | 5-chloro-2-[(ethoxycarbonyl)amino]benzonitrile | ClC=1C=CC(=C(C#N)C1)NC(=O)OCC | C10H9ClN2O2
reactant | 2-bromo-3′-chloroacetophenone | BrCC(=O)C1=CC(=CC=C1)Cl | C8H6BrClO
product | Ethyl 3-amino-5-chloro-2-(3-chlorobenzoyl)-1H-indole-1-carboxylate | NC1=C(N(C2=CC=C(C=C12)Cl)C(=O)OCC)C(C1=CC(=CC=C1)Cl)=O | C18H14Cl2N2O3
